US04061656
A solution of 11.7 g. of 2-methyl-3,4-dibromo-thiophene in 30 ml. of acetic acid was added to 60 ml of concentrated hydrochloric acid. After dropping in 4.1 g. of a 37% aqueous solution of formaldehyde the mixture was heated to 70° C. for one hour. The reaction mixture was cooled, diluted with water and extracted with ether. The combined organic phases were washed with water, sodium bicarbonate and water, dried over sodium sulfate, filtered and evaporated to give 2-chloromethyl-3,4-dibromo-5-methyl-thiophene.

reactant | 2-methyl-3,4-dibromo-thiophene | CC=1SC=C(C1Br)Br | C5H4Br2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 60 ml | Cl | ClH
reactant | formaldehyde | C=O | CH2O
solvent | water | O | H2O
product | 2-chloromethyl-3,4-dibromo-5-methyl-thiophene | ClCC=1SC(=C(C1Br)Br)C | C6H5Br2ClS
